US07001897B2
To a solution of 1-(4-carbamoyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine (3.04 g, 11.0 mmol) (obtained as described in Reference Example 3(3)) in dimethylformamide (152 ml) was added potassium thioacetate (7.5 g, 65.8 mmol) at room temperature. The mixture was stirred in an oil bath (80° C.) for 10 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate→4% methanol in ethyl acetate as the eluant to afford 3-acetylthio-1-(4-carbamoyl-1,3-thiazol-2-yl)azetidine (1.97 g, yield 70%) as a pale brown solid.

reactant | 1-(4-carbamoyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine | 11.0 mmol, 3.04 g | C(N)(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C8H11N3O4S2
reactant | potassium thioacetate | 65.8 mmol, 7.5 g | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 152 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-(4-carbamoyl-1,3-thiazol-2-yl)azetidine | 1.97 g, yield 70% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C(N)=O | C9H11N3O2S2
